US05643950
t-Butylchlorodimethylsilane (8.3 g, 55 mmol) was added to a stirred mixture of 4-chlorobutanol (5.0 mL, 50 mmol), silver nitrate (12.8 g, 75.1 mmol), and pyridine (4.0 mL, 50 mmol) in 40 mL of dry THF. After 4 hr, the reaction mixture was filtered through Celite and evaporated to give a yellow oil. The material was purified by distillation to provide 4-chlorobutyl t-butyldimethylsilyl ether as a colorless oil (11 g, quantitative). To a solution of triphenylmethane (5.10 g, 20.8 mmol) in 25 mL of dry THF at -78° C., 13.1 mL (21 mmol) of 1.6M n-butyllithium was added dropwise under nitrogen. Shortly thereafter, 4.29 g (19.3 mmol) of 4-chlorobutyl t-butyldimethylsilyl ether was added. After addition of water and extraction with hexane, the product was purified by chromatography on silica gel with 1:3 dichloromethane-hexane, providing t-butyldimethylsilyl 5,5,5-triphenylpentyl ether as an oil (6.85 g). This material was dissolved in THF (30 mL) and 16 mL of 1.0M tetrabutylammonium fluoride in THF was added. After 3 hr, the mixture was acidified with 1N HCl, extracted with three portions of ethyl acetate, and the extracts dried over magnesium sulfate and evaporated in vacuo. The product was purified by chromatography on silica gel with a 10%-20% gradient of ethyl acetate in hexane, providing the title compound as a white solid, 3.83 g (63% overall).

reactant | triphenylmethane | 20.8 mmol, 5.10 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | n-butyllithium | 21 mmol, 1.6M, 13.1 mL | C(CCC)[Li]
reactant | 4-chlorobutyl t-butyldimethylsilyl ether | 19.3 mmol, 4.29 g | [Si](C)(C)(C(C)(C)C)OCCCCCl | C10H23ClOSi
reactant | water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | t-butyldimethylsilyl 5,5,5-triphenylpentyl ether | 6.85 g | C1(=CC=CC=C1)C(CCCCO[Si](C)(C)C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H38OSi
